US08293768B2
To a solution of 4-fluoroaniline (2.00 mL, 21.1 mmol) and dimethoxyacetaldehyde (60% solution in water, 3.30 mL, 21.9 mmol) in tetrahydrofuran (100 mL) was added sodium triacetoxyborohydride (6.70 g, 30.0 mmol) at ambient temperature. The resulting reaction mixture was stirred at ambient temperature for 12 hours, followed by the addition of brine (50 mL) then extraction with ethyl acetate (3×100 mL). The combined organic solution was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo, and the residue was purified by column chromatography to afford N-(2,2-dimethoxyethyl)-4-fluoroaniline (2.30 g, 57%): MS (ES+) m/z 200.6 (M+1).

reactant | 4-fluoroaniline | 21.1 mmol, 2.00 mL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | dimethoxyacetaldehyde | 21.9 mmol, 3.30 mL | COC(C=O)OC | C4H8O3
reactant | sodium triacetoxyborohydride | 30.0 mmol, 6.70 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | brine | 50 mL | [Cl-].[Na+].O
product | N-(2,2-dimethoxyethyl)-4-fluoroaniline | 2.30 g, 57% | COC(CNC1=CC=C(C=C1)F)OC | C10H14FNO2
